US05006561
2-[N-Methyl-N-(4-nitrophenethyl)amino]-5-nitroindane
2-Methylamino-5-nitroindane hydrochloride (0.45 g), 4-nitrophenethyl bromide (0.46 g) and potassium carbonate (2 g) were heated under reflux in acetonitrile (30 ml) for 3 days. The reaction mixture was then filtered, the filtrate evaporated in vacuo, and the residue purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated in vacuo to give a gum which was crystallised from ethanol affording the title compound, yield 0.16 g, m.p. 138°-141°.

reactant | 2-Methylamino-5-nitroindane hydrochloride | 0.45 g | Cl.CNC1CC2=CC=C(C=C2C1)[N+](=O)[O-]
reactant | 4-nitrophenethyl bromide | 0.46 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-[N-Methyl-N-(4-nitrophenethyl)amino]-5-nitroindane | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C18H19N3O4
